### PR TITLE
feat(Combinatorics/HypergraphLike): add HypergraphLike class

### PR DESCRIPTION
**Pull request by Jun2M**
Introduces `HyperGraphLike V I E Gr`, an incidence interface for developing common graph theory across graph and hypergraph representations, including `SimpleGraph`, `Graph`, and `Digraph`. The class supplies separate active vertex, incidence, and edge sets, source and target roles, and overridable link and adjacency relations.

The general API includes the public maps `attach` and `edgeMap`, incidence fibers `edgeFiber` and `vertexFiber`, support sets `incVerts` and `incEdges`, `ℕ∞` degree and order, incidence-counting identities, uniformity, and regularity. Distinct incidence labels at the same vertex and edge are counted separately. Definitions use active subtype maps, with public characterizations carrying only the required `Nonempty` assumptions.

Related: #36743 and the [HasAdj discussion](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/HasAdj/with/575843445).

Codex assisted with the initial implementation and review, and revised by me.

Co-authored-by: OpenAI Codex <codex@openai.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by tb65536** [comment]
This PR definitely needs to be split up.

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,580 @@
...
+* `HyperGraphLike.edgeFiber` and `HyperGraphLike.vertexFiber`: the active incidence labels belonging
+  to an edge or vertex.
+* `HyperGraphLike.incVerts` and `HyperGraphLike.incEdges`: the vertices of an edge and the edges at
+  a vertex, forgetting incidence multiplicity and orientation.
+* `HyperGraphLike.degree` and `HyperGraphLike.order`: count incidences at a vertex or edge in `ℕ∞`.
+* `HyperGraphLike.IsUniform` and `HyperGraphLike.IsRegular`: constant edge order and vertex degree.
+
+## Implementation notes
+
+Links and adjacency respect source and target roles and need not be symmetric. A link uses two
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]: What does "respect source and target roles" mean?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,580 @@
...
+distinct incidence identifiers, including when its endpoints coincide. This separates loops (an edge
+with two incidences to the same vertex) and a dangling edge (an edge with one incidence with a
+vertex).
+
+The maps in the definition of `HyperGraphLike` act on active subtypes. `edgeMap` and `attach` give
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]: I understand this "active" terminology merely because we talked about it in-person last week. Could you explain it, and more generally expunge all docs from LLM-generated prose?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,580 @@
...
+ambient values under the corresponding `Nonempty` assumptions, by sending an arbitrary value outside
+the active incidence set.
+-/
+
+@[expose] public section
+
+open Set Function
+
+/-- `HyperGraphLike` abstracts a graph-like structure using separate types for vertices, incidence
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]:
```suggestion
/-- `HyperGraphLike` abstracts types of graph-like structures using separate types for vertices, incidence
```
right?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,580 @@
...
+identifiers, and edges.
+
+Consider a type that models a graph-like structure, `Gr`. For `G : Gr`, `verts G`, `edges G`, and
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]:
```suggestion
Consider a type `Gr` that models a graph-like structure. For `G : Gr`, `verts G`, `edges G`, and
```

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,580 @@
...
+`incs G` specify the vertices, edges, and incidence identifiers present in `G`. The supplied maps
+`toEdge G` and `toVert G` assign an edge and endpoint to each active incidence.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]: Again, what's "active"?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,580 @@
...
+
+@[simp]
+lemma biUnion_vertexFiber (G : Gr) : ⋃ v ∈ V(G), vertexFiber G v = I(G) := by
+  ext i
+  simp [vertexFiber]
+
+/-! ### Links and adjacency -/
+
+@[grind →]
+lemma IsLink.edge_mem (h : IsLink G e u v) : e ∈ E(G) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]:
```suggestion
lemma IsLink.edge_mem_edgeSet (h : IsLink G e u v) : e ∈ E(G) := by
```
Same below

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,580 @@
...
+
+@[simp]
+lemma not_adj_of_notMem_verts (hu : u ∉ V(G)) : ¬ Adj G u v := mt Adj.left_mem hu
+
+@[simp]
+lemma not_adj_of_notMem_verts_right (hv : v ∉ V(G)) : ¬ Adj G u v := mt Adj.right_mem hv
+
+lemma isLink_iff_exists_incidence [Nonempty V] [Nonempty E] : IsLink G e u v ↔
+    ∃ i j, i ≠ j ∧ IsSource G i ∧ IsTarget G j ∧ edgeMap G i = e ∧ edgeMap G j = e ∧
+    attach G i = u ∧ attach G j = v := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]:
```suggestion
lemma isLink_iff_exists_incidence [Nonempty V] [Nonempty E] :
    IsLink G e u v ↔
      ∃ i j, i ≠ j ∧ IsSource G i ∧ IsTarget G j ∧ edgeMap G i = e ∧ edgeMap G j = e ∧
        attach G i = u ∧ attach G j = v := by
```

**Review by YaelDillies — COMMENTED** [review]
Do you think we should have notation like `u ~[G] v` for `Adj G u v` and `u ~[G; e] v` for `IsLink G e u v`?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean (hunk 2 above)
Comment (Jun2M) [reply Mathlib/Combinatorics/HypergraphLike/Basic.lean]: Sorry, I think I have been to happy to have codex pro sub. I will purge and rewrite every docs

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,595 @@
...
+    finsum_eq_sum_of_fintype] using (encard_iUnion_of_finite (ι := E(G))
+      ((pairwise_disjoint_edgeFiber G).comp_of_injective Subtype.val_injective)).symm
+
+/-- The degree sum equals the edge order sum when both indexing sets are finite. This is true
+without finiteness assumption but requires importing topology here. -/
+lemma sum_degree_eq_sum_order (G : Gr) [Fintype V(G)] [Fintype E(G)] :
+    ∑ v : V(G), degree G (v : V) = ∑ e : E(G), order G (e : E) :=
+  (sum_degree G).trans (sum_order G).symm
+
+/-! ### Uniformity and regularity -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]: Shouldn't this be a later PR?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,595 @@
...
+  verts : Gr → Set ν
+  /-- The set of edges present in a graph-like structure. -/
+  edges : Gr → Set ε
+  /-- The set of incidence identifiers used by a graph-like structure. -/
+  incs : Gr → Set ι
+  /-- Each incidence is assigned an edge. -/
+  toEdge : ∀ G, incs G → edges G
+  /-- Each incidence is assigned a vertex. -/
+  toVert : ∀ G, incs G → verts G
+  /-- The predicate that marks an incidence as a source incidence. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]:
```suggestion
  /-- The predicate for an incidence to be a source. -/
```
or something like that? Same below

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,595 @@
...
+  IsSource : Gr → ι → Prop
+  /-- The predicate that marks an incidence as a target incidence. -/
+  IsTarget : Gr → ι → Prop
+  /-- An incidence identifier is used exactly when it is marked as a source or target. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]:
```suggestion
  /-- An incidence identifier is used exactly when it is a source or target. -/
```
It is somewhat confusing that you say "incidence identifier" but not "vertex/edge identifier". Maybe just use "incidence" everywhere?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,595 @@
...
+  mem_incs_iff ⦃G i⦄ : i ∈ incs G ↔ IsSource G i ∨ IsTarget G i
+  -- Link and adjacency may be overridden for definitional agreement with a concrete representation.
+  -- The accompanying fields require each override to agree with its default.
+  /-- `IsLink G e u v` means that `e` has distinct source and target incidences at `u` and `v`. -/
+  IsLink : Gr → ε → ν → ν → Prop := fun G e u v ↦ ∃ i j : incs G, i ≠ j ∧
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]: I think this works and is pretty neat:
```suggestion
  IsLink (G : Gr) (e : ε) (u v : ν) Prop := fun G e u v ↦ ∃ i j : incs G, i ≠ j ∧
```
It also makes the type of `IsLink` hint at what the variables should be named, which is something that all the fields of `HypergraphLike` could use

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,595 @@
...
+    IsSource G i.val ∧ IsTarget G j.val ∧ (toEdge G i).val = e ∧ (toVert G i).val = u ∧
+    (toEdge G j).val = e ∧ (toVert G j).val = v
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]: Do you really need to assume `i ≠ j` here? Is it possible for an edge to be both a source and a target? Does this have to do with directedness of the edge?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,595 @@
...
+@[inherit_doc edges]
+scoped notation "E(" G ")" => edges G
+
+variable {V I E Gr : Type*} {G : Gr} [HyperGraphLike V I E Gr] {u u' v v' w : V} {i j : I} {e f : E}
+
+section HyperGraphLike
+
+/-! ### Incidence maps -/
+
+lemma IsSource.mem (h : IsSource G i) : i ∈ I(G) := mem_incs_iff.mpr (Or.inl h)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]:
```suggestion
lemma IsSource.mem_incs (h : IsSource G i) : i ∈ I(G) := mem_incs_iff.mpr (Or.inl h)
```
and for a bunch of other lemmas too. This is just to avoid ambiguity on whether the left or right argument of `mem` is a free variable

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,595 @@
...
+  /-- The set of vertices present in a graph-like structure. -/
+  verts : Gr → Set ν
+  /-- The set of edges present in a graph-like structure. -/
+  edges : Gr → Set ε
+  /-- The set of incidence identifiers used by a graph-like structure. -/
+  incs : Gr → Set ι
+  /-- Each incidence is assigned an edge. -/
+  toEdge : ∀ G, incs G → edges G
+  /-- Each incidence is assigned a vertex. -/
+  toVert : ∀ G, incs G → verts G
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]: Can you clarify that one should usually avoid these operations and instead use the total ones `edgeMap` and `attach`? Having them be called the same but primed would help towards that, ie
```suggestion
  /-- Each incidence is assigned an edge. -/
  edgeMap' : ∀ G, incs G → edges G
  /-- Each incidence is assigned a vertex. -/
  attach' : ∀ G, incs G → verts G
```
but I am pretty sure the PR used to do exactly this; why did you change your mind?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,595 @@
...
+noncomputable def attach [Nonempty V] (G : Gr) (i : I) : V :=
+  if hi : i ∈ I(G) then toVert G ⟨i, hi⟩ else Classical.arbitrary V
+
+open Classical in
+/-- The edge of an incidence, with an arbitrary value outside `I(G)`. -/
+noncomputable def edgeMap [Nonempty E] (G : Gr) (i : I) : E :=
+  if hi : i ∈ I(G) then toEdge G ⟨i, hi⟩ else Classical.arbitrary E
+
+@[simp]
+lemma toVert_eq_attach [Nonempty V] (i : I(G)) : (toVert G i : V) = attach G (i : I) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]:
```suggestion
lemma val_toVert [Nonempty V] (i : I(G)) : (toVert G i : V) = attach G (i : I) := by
```
or
```suggestion
lemma val_toVert_eq_attach [Nonempty V] (i : I(G)) : (toVert G i : V) = attach G (i : I) := by
```
?

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,595 @@
...
+lemma IsLink.mem_incEdges_right (h : IsLink G e u v) : e ∈ incEdges G v :=
+  mem_incEdges.mpr h.right_mem_incVerts
+
+/-! ### Degree and order -/
+
+/-- The number of incidences of an edge, with value `⊤` for an infinite fiber. -/
+noncomputable def order (G : Gr) (e : E) : ℕ∞ := {i : I(G) | (toEdge G i : E) = e}.encard
+
+/-- The number of incidences attached to a vertex, with value `⊤` for an infinite fiber. -/
+noncomputable def degree (G : Gr) (v : V) : ℕ∞ := {i : I(G) | (toVert G i : V) = v}.encard
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/HypergraphLike/Basic.lean]: IMO this should be in a separate file (and PR). Also I would call the `ℕ∞`-valued versions `eorder` and `edegree`, and reserve the current names for the `ℕ`-valued versions.

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean (hunk 12 above)
Comment (Jun2M) [reply Mathlib/Combinatorics/HypergraphLike/Basic.lean]: Ne condition is there because given some undirected edge `e` between `u` and `v`, I don' want to say `e` is a link between `u` and `u` by entering and exiting the edge via the same incidence. It is a decision coming from that undirected incidence is modelled as using incidence that is both a source and a target. I am not sure what you mean by an edge being a source and a target.

Comment (YaelDillies) [reply Mathlib/Combinatorics/HypergraphLike/Basic.lean]: Sorry, I meant to ask whether an _incidence_ could both be a source and a target. This makes sense

File: Mathlib/Combinatorics/HypergraphLike/Basic.lean (hunk 16 above)
Comment (Jun2M) [reply Mathlib/Combinatorics/HypergraphLike/Basic.lean]: It is now #44015!
